US04996219
EXAMPLE 5 1-Benzyl-4-imino-5-methyleneimidazolidin-2-one
To an ice-cooled solution of 4 g. (17.3 mmol) 2-benzylamino-3-chloropropionitrile in 40 ml. dry methylene chloride and 2.4 ml. triethylamine is added dropwise a solution of 1.64 ml. (18.9 mmol) chlorosulphonyl isocyanate in 20 ml. dry methylene chloride. Subsequently, the reaction solution is further stirred for 2 hours at 0° C., then warmed to ambient temperature and mixed with 300 ml. of a 5% aqueous solution of sodium hydrogen carbonate. The organic phase is then separated off, dried over anhydrous sodium sulphate and evaporated to dryness. Subsequently, the residue is chromatographed on silica gel (elution age t: merhaol/methylene chloride 1:10 v/v) to give 0.8 g. (24% of theory) of the title compound; m.p. 225° C.

reactant | 2-benzylamino-3-chloropropionitrile | 17.3 mmol | C(C1=CC=CC=C1)NC(C#N)CCl | C10H11ClN2
reactant | chlorosulphonyl isocyanate | 18.9 mmol | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Benzyl-4-imino-5-methyleneimidazolidin-2-one | C(C1=CC=CC=C1)N1C(NC(C1=C)=N)=O | C11H11N3O
